datasets/10k__Tet_Int.csv
SMILES Labelled
"[NH:10]([H])C(C)/C(C)=C([H])\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])=C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CN([C:20]1(OC(C([O:21]1)C)CC)[O-:10])[H]>>CN([C:20](=[O:10])OC(C([O-:21])C)CC)[H] 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21][H]>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21][H])CC)CC 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)([O-:21])[H]>>C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)[H])C1=CC=CC=C1 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1C)([O-:10])[Cl:21])C>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C)C.[Cl-:21] 10=20;20,21=21"
"[NH:10](C)C(CC)C([H])C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]CC 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1C)[H].[O-:21][H]>>CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21][H])[H] 21=20;20,10=10"
"[O:10]([K])C(C)C([H])N([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[O+:10]([K])C(C)C([H])N1C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[OH:10]C([H])/C([H])=C([H])\C([H])[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])C([H])=C([H])C([H])[OH+:10]1 10=20;20,21=21"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S][H])[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1C)CC.[O-:21]CC>>CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]CC)CC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(CC)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O:20]=[C:21](OCC)OCCCCCC.CC[O:10][Li]>>CC[O+:10]([Li])[C:21]([O-:20])(OCC)OCCCCCC 10=21;21,20=20"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)CC>>C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
